US04997840
Triethylamine (362.8 ml) was added to a stirred mixture of benzoic acid (239.1 g) and dichloromethane (1120 ml) at 0° and the resultant solution was added dropwise over a period of 1 hour to the solution of 2'-(2-chloroacetyl)-N-methylformanilide under nitrogen whilst maintaining the temperature below 5°. The resulting solution was stirred overnight at ambient temperature, washed with water (2×1250 ml), dried over magnesium sulphate and the solvent removed by distillation at 50° to give a solid residue. Trituration with petroleum ether (b.p. 60°-80°, 1 1) gave the novel compound 2-[2-(N-methylformamido)phenyl]-2-oxoethyl benzoate, m.p. 100°-102°.

reactant | Triethylamine | 362.8 ml | C(C)N(CC)CC | C6H15N
reactant | benzoic acid | 239.1 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2'-(2-chloroacetyl)-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=CC=C1 | C10H10ClNO2
solvent | dichloromethane | 1120 ml | ClCCl | CH2Cl2
product | 2-[2-(N-methylformamido)phenyl]-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)N(C=O)C | C17H15NO4
